US07351725B2
4-(5-Phenylpentyloxy)benzaldehyde
Diethylazodicarboxylate (0.49 g, 2.8 mmol) in tetrahydrofuran (2 mL) was added to a solution of 4-hydroxybenzaldehyde (0.25 g, 2.05 mmol), 5-phenyl-1-pentanol (0.34 mL, 2.05 mmol) and triphenylphosphine (0.73 g, 2.80 mmol) in tetrahydrofuran (10 mL) at rt. The reaction was stirred for 2 h. The reaction mixture was concentrated in vacuo. Silica gel chromatography eluting with 20% ethyl acetate/hexane yielded 0.070 g of desired product: 1H NMR (500 MHz, CD3OD): δ 9.83 (s, 1H), 7.86 (d, J=8.7 Hz, 2H), 7.25 (t, 2H), 7.14-7.20 (m, 3H), 7.06 (d, J=8.7 Hz, 2H), 4.09 (t, J=6.4 Hz, 2H), 2.65 (t, J=7.7 Hz, 2H), 1.80-1.88 (m, 2H), 1.68-1.75 (m, 2H), 1.49-1.57 (m, 2H).

reactant | Diethylazodicarboxylate | 2.8 mmol, 0.49 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-hydroxybenzaldehyde | 2.05 mmol, 0.25 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 5-phenyl-1-pentanol | 2.05 mmol, 0.34 mL | C1(=CC=CC=C1)CCCCCO | C11H16O
reactant | triphenylphosphine | 2.80 mmol, 0.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(5-Phenylpentyloxy)benzaldehyde | 0.070 g | C1(=CC=CC=C1)CCCCCOC1=CC=C(C=O)C=C1 | C18H20O2
